US06521643B1
To a suspension of 2-bromo-4-methylpyridine (5.16 g), 4-methyl-3-nitrophenylboronic acid (7.06 g) and tetrakis(triphenylphosphine)-palladium (1.73 g) in 1,2-dimethoxyethane (100 ml) was added 2M aqueous solution of sodium carbonate (39 ml). The mixture was stirred at 80° C. for 12 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. 2-Propanol was added to the residue. The precipitate was collected by filtration and dried under reduced pressure to give 4-(4-methylpyridin-2-yl)-2-nitrotoluene (4.54 g).

reactant | 2-bromo-4-methylpyridine | 5.16 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | 4-methyl-3-nitrophenylboronic acid | 7.06 g | CC1=C(C=C(C=C1)B(O)O)[N+](=O)[O-] | C7H8BNO4
reactant | sodium carbonate | 39 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 1.73 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-methylpyridin-2-yl)-2-nitrotoluene | 4.54 g | CC1=CC(=NC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H12N2O2
